US08466282B2
5-fluoro-N-(4-methoxybutyl)-2-nitroaniline
5-Fluoro-2-nitroaniline (1.0 g) was dissolved in THF (20 ml), sodium hydride (60% in oil, 384 mg) was added, and the mixture was stirred at room temperature for 30 min. 4-Methoxybutyl methanesulfonate (1.28 g) was added, and the mixture was heated under reflux with stirring for 15 hr. The reaction mixture was cooled to room temperature and saturated brine was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (30:70) was concentrated under reduced pressure to give the object product (494 mg).

reactant | 5-Fluoro-2-nitroaniline | 1.0 g | FC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5FN2O2
reactant | sodium hydride | 384 mg | [H-].[Na+]
reactant | 4-Methoxybutyl methanesulfonate | 1.28 g | CS(=O)(=O)OCCCCOC | C6H14O4S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 5-fluoro-N-(4-methoxybutyl)-2-nitroaniline | 494 mg | FC=1C=CC(=C(NCCCCOC)C1)[N+](=O)[O-] | C11H15FN2O3
